US07601722B2
In an analogous manner as described in general procedure V, 1-[2-(2-bromoethoxy)ethyl]-3-(2-fluorophenyl)-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide (0.07 g, 0.16 mmol) was treated with dimethylamine (10 mL) to provide 0.05 g (95%) of 2-{2-[3-(2-fluorophenyl)-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl]ethoxy}-N,N-dimethylethanamine. MS (ES) m/z 380.0; HRMS: calculated for C18H22FN3O3S+H+, 380.14387; found (ESI, [M+H]+), 380.1443; HPLC purity 98.1% at 210-370 nm, 9.1 minutes; Xterra RP18, 3.5 u, 150×4.6 mm column, 1.2 mL/minutes 85/15-5195 (Ammon. Bicarb Buff. pH=9.5/ACN+MeOH) for 10 minutes hold 4 minutes.

reactant | 1-[2-(2-bromoethoxy)ethyl]-3-(2-fluorophenyl)-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide | 0.16 mmol, 0.07 g | BrCCOCCN1S(N(C2=C1C=CC=C2)C2=C(C=CC=C2)F)(=O)=O | C16H16BrFN2O3S
reactant | dimethylamine | 10 mL | CNC | C2H7N
product | 2-{2-[3-(2-fluorophenyl)-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl]ethoxy}-N,N-dimethylethanamine | 0.05 g, 95% | FC1=C(C=CC=C1)N1S(N(C2=C1C=CC=C2)CCOCCN(C)C)(=O)=O | C18H22FN3O3S
